US04883815
1.75 g (0.006 mol) of 2-(4-acetamidobutyryl)-5-chlorohydrocinnamic acid and 0.95 g (0.006 mol) of 1,1'-carbonyldiimidazole are stirred at room temperature in 15 ml of tetrahydrofuran and 1.0 ml (0.006 mol) of N-ethyldiisopropylamine and 0.82 g (0.006 mol) of ethyl glycinate hydrochloride are then added thereto. After stirring at room temperature for 1 hour, the solution is concentrated, extracted with methylene chloride/water, dried with magnesium sulfate and the solvent is distilled in a vacuum. Chromatography on aluminum oxide with ethyl acetate-ethanol (9:1) and crystallization from methylene chloride/t-butyl methyl ether gives ethyl N-[2-(4-acetamidobutyryl)-5-chlorohydrocinnamoyl]-glycinate as white crystals with melting point 96°.

reactant | 2-(4-acetamidobutyryl)-5-chlorohydrocinnamic acid | 0.006 mol, 1.75 g | C(C)(=O)NCCCC(=O)C1=C(CCC(=O)O)C=C(C=C1)Cl | C15H18ClNO4
reactant | 1,1'-carbonyldiimidazole | 0.006 mol, 0.95 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-ethyldiisopropylamine | 0.006 mol, 1.0 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethyl glycinate hydrochloride | 0.006 mol, 0.82 g | Cl.NCC(=O)OCC
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | ethyl N-[2-(4-acetamidobutyryl)-5-chlorohydrocinnamoyl]-glycinate | C(C)(=O)NCCCC(=O)C1=C(CCC(=O)NCC(=O)OCC)C=C(C=C1)Cl | C19H25ClN2O5
